US04496551
Preparation of (1,1'-Biphenyl-4-yl)chloromethyl(methyl)(2-propoxy)silane
A solution of 73.3 g (0.315 mol) of 4-bromobiphenyl in 300 ml of tetrahydrofuran was added dropwise to a stirred suspension of 7.64 g (0.315 mol) of magnesium in 100 ml of tetrahydrofuran at a rate that maintained gentle reflux. The resulting clear solution was stirred at room temperature for 1 hour and then cooled in ice, and a solution of 40 ml (0.315 mol) of chloromethyl(dichloro)methylsilane in 100 ml of tetrahydrofuran was added rapidly. The resulting solution was stirred at room temperature for 20 hours, treated with 50 ml of isopropanol, and cooled in ice again. A solution of 48 ml (0.344 mol) of triethylamine in tetrahydrofuran was then added at a rate that held the mixture below 25°. Stirring at room temperature for 90 minutes gave a slurry. Filtration, evaporation of the filtrate, trituration with hexanes, and a second filtration removed residual amine hydrochloride. Evaporation of the hexanes solution gave 92 g (96%) of the title compound as a pale yellow oil that solidified on standing; m.p. 35°-38°; nmr (CDCl3) 0.5 (3H, s), 1.2 (6H, d), 3.0 (2H, s), 4.2 (1H, septet), 7.3-7.8 (9H, m).

reactant | 4-bromobiphenyl | 0.315 mol, 73.3 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | magnesium | 0.315 mol, 7.64 g | [Mg] | Mg
reactant | chloromethyl(dichloro)methylsilane | 0.315 mol, 40 ml | ClC[SiH2]C(Cl)Cl | C2H5Cl3Si
reactant | triethylamine | 0.344 mol, 48 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | (1,1'-Biphenyl-4-yl)chloromethyl(methyl)(2-propoxy)silane | 92 g, 96% | C1(=CC=C(C=C1)[Si](OC(C)C)(C)CCl)C1=CC=CC=C1 | C17H21ClOSi
